US08202879B2
To a solution of 4.22 ml of N,N-diisopropylamine in tetrahydrofuran (25 ml) cooled to −78° C. was added dropwise 18.8 ml of 1.6 mol/L n-BuLi hexane solution. After completion of addition, a temperature was elevated to 0° C., and the mixture was stirred at 0° C. for 20 minutes, and cooled again to −78° C. 1.33 ml of 2-bromo-1-propene in tetrahydrofuran (25 ml) was added, and the mixture was stirred at −78° C. for 2 hours. To the mixture was added dropwise a solution of 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-quinazoline-6-carboxylic acid methoxy methyl amide (XI-1, 2.33 g) in tetrahydrofuran (50 ml) and, after completion of addition, a temperature was elevated to 0° C., followed by stirring for 3 hours. After completion of the reaction, the reaction mixture was poured into ice water, neutralized with 2 mol/L hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, the filtrate was concentrated, and the resulting crystalline residue was washed with methylene chloride to obtain 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-oxo-2-butyn-1-yl)quinazoline (VII-4, 1.71 g) as a yellow solid.

reactant | N,N-diisopropylamine | 4.22 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi hexane | 1.6 mol/L, 18.8 ml | [Li]CCCC.CCCCCC
reactant | 2-bromo-1-propene | 1.33 ml | BrC(=C)C | C3H5Br
reactant | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-quinazoline-6-carboxylic acid methoxy methyl amide | 2.33 g | COCNC(=O)C=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl | C24H20ClFN4O3
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-oxo-2-butyn-1-yl)quinazoline | 1.71 g | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C(C#CC)=O | C25H17ClFN3O2
